US04181681
In the third step of the process (equation 3), 4-acetoxy-3-nitro-β-chlorocinnamaldehyde is added to a solution of sodium hydroxide. The reaction mixture is maintained at 50° to 80° C. for about 15 to 30 minutes and then cooled at 0° C. In the reaction that occurs, the ester group is hydrolyzed, and hydrogen chloride and carbon monoxide are simultaneously eliminated. The mole ratio of sodium hydroxide to 4-acetoxy-3-nitro-β-chlorocinnamaldehyde is usually about 3 to 10:1. The cooled solution is neutralized with glacial acetic acid to give a precipitate which is separated by filtration. The precipitate is then purified to give crystals of 4-ethynyl-2-nitrophenol.

reactant | 4-acetoxy-3-nitro-β-chlorocinnamaldehyde | C(C)(=O)OC1=C(C=C(C(=CC=O)Cl)C=C1)[N+](=O)[O-] | C11H8ClNO5
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrogen chloride | Cl | ClH
reactant | carbon monoxide | [C]=O | CO
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 4-ethynyl-2-nitrophenol | C(#C)C1=CC(=C(C=C1)O)[N+](=O)[O-] | C8H5NO3
